US09126948B2
Step 1. 1-(3-Bromo-5-chloro-2-hydroxy-4-methylphenyl)ethanone
To a stirred solution of 1-(5-chloro-2-hydroxy-4-methylphenyl)ethanone (10.0 g, 54.2 mmol, from Aldrich) in acetic acid (100 mL) was added N-bromosuccinimide (11.6 g, 65.0 mmol) and the resulting mixture was stirred at rt for 18 h. The reaction mixture was concentrated in vacuo, then neutralized with sat. sodium bicarbonate, and the insoluble succinimide was removed by filtration. The filtrate was extracted with ethyl acetate (EtOAc). The combined organic layers were washed with brine, dried over sodium sulfate, and then concentrated to dryness under reduced pressure. The crude product was recrystallized from a mixture of EtOAc and hexane (11.4 g, 80%).

reactant | 1-(5-chloro-2-hydroxy-4-methylphenyl)ethanone | 54.2 mmol, 10.0 g | ClC=1C(=CC(=C(C1)C(C)=O)O)C | C9H9ClO2
reactant | N-bromosuccinimide | 65.0 mmol, 11.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-(3-Bromo-5-chloro-2-hydroxy-4-methylphenyl)ethanone | BrC=1C(=C(C=C(C1C)Cl)C(C)=O)O | C9H8BrClO2
